US06525036B2
A solution comprised of ethyl 2-cyclohexylmethyl-N-phenethylmalonamate (366 mg, 1.106 mmol) in ethanol (10 mL) was treated with 1N aqueous sodium hydroxide (1.3 mL) for 2.5 hours and then diluted with water (30 mL) and brine (10 mL). The dilution was extracted with diethyl ether (3×30 mL). The aqueous layer was cooled to 0° C., acidified with 1N hydrochloric acid (2 mL) and extracted with ethyl acetate (3×30 mL). The combined ethyl acetate extracts were washed with brine, dried (MgSO4) and concentrated to provide 2-cyclohexylmethyl-N-phenethyhnalonamic acid (138 mg, 0.45 mmol).

reactant | ethyl 2-cyclohexylmethyl-N-phenethylmalonamate | 1.106 mmol, 366 mg | C1(CCCCC1)CC(C(=O)OCC)C(=O)NCCC1=CC=CC=C1 | C20H29NO3
reactant | sodium hydroxide | 1N, 1.3 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
solvent | brine | 10 mL | [Cl-].[Na+].O
product | 2-cyclohexylmethyl-N-phenethyhnalonamic acid | 0.45 mmol, 138 mg | C1(CCCCC1)CC(C(=O)O)C(=O)NCCC1=CC=CC=C1 | C18H25NO3
